US07947676B2
2-[{2-[(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]ethyl}(methyl)amino]ethanol
The procedure described in Example 23 was repeated using 3-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine and N-methylethanolamine to give the title compound in 44% yield; NMR Spectrum: 2.30 (s, 3H), 2.52-2.55 (m, 2H), 2.88 (t, 2H), 3.47-3.50 (m, 2H), 4.39 (t, 2H), 5.28 (s, 2H), 7.25 (d, 1H), 7.35-7.38 (m, 1H), 7.55-7.58 (m, 2H), 7.87 (t, 1H), 7.93 (d, 1H), 8.29 (s, 1H), 8.44 (s, 1H), 8.59 (d, 1H); Mass Spectrum: 470 (MH+).

reactant | 3-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OCC2=NC=CC=C2)Cl | C19H16Cl2N6O2
reactant | N-methylethanolamine | CNCCO | C3H9NO
product | 2-[{2-[(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]ethyl}(methyl)amino]ethanol | 44% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=C2C(=NC=N1)NN=C2OCCN(CCO)C | C22H24ClN7O3
